US07645789B2
Ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate (1.18 g, 3.0 mmol) was added to a solution of LiBH4 (132 mg, 6.0 mmol) in THF (10 mL) and water (0.1 mL). The mixture was allowed to stir for 16 h at 25° C. before it was quenched with water (10 mL) and slowly made acidic by addition of 1 N HCl. The mixture was extracted with three 50-mL portions of ethyl acetate. The organic extracts were dried over Na2SO4 and evaporated to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(hydroxymethyl)-1H-indol-5-yl)cyclopropanecarboxamide (770 mg, 73%). A small amount was further purified by reverse phase HPLC. ESI-MS m/z calc. 350.4, found 351.3 (M+1)+; retention time 2.59 minutes.

reactant | Ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate | 3.0 mmol, 1.18 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(=O)OCC | C22H20N2O5
reactant | LiBH4 | 6.0 mmol, 132 mg | [Li+].[BH4-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(hydroxymethyl)-1H-indol-5-yl)cyclopropanecarboxamide | 770 mg, 73% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)CO | C20H18N2O4
